US04110323
A solution of 68.7 g (0.5 mole) of phosphorus trichloride in dry hexane or diethyl ether is added slowly to a stirred solution of 363.6 g (3.0 moles) of dibutylamine in the same solvent. A voluminous precipitate of dibutylamine hydrochloride is formed, the temperature remaining between 10° and 40° C. After all the phosphorus trichloride has been added, the mixture is boiled and refluxed for between 30 minutes and 2 hours. The mixture is then cooled to room temperature and filtered to separate it from 280 g (1.7 moles) of dibutylamine hydrochloride. The solvent is then stripped off at reduced pressure in a rotary evaporator.

reactant | phosphorus trichloride | 0.5 mole, 68.7 g | P(Cl)(Cl)Cl | Cl3P
reactant | dibutylamine | 3.0 moles, 363.6 g | C(CCC)NCCCC | C8H19N
solvent | hexane | CCCCCC | C6H14
solvent | diethyl ether | C(C)OCC | C4H10O
product | dibutylamine hydrochloride | Cl.C(CCC)NCCCC | InChI=1S/C8H19N.ClH/c1-3-5-7-9-8-6-4-2;/h9H,3-8H2,1-2H3;1H
